US09284331B2
9-bromo-10-fluoro-3,4,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione
methyl 2-(2-acetyl-5-bromo-6-fluoro-1,2,3,4-tetrahydroisoquinolin-1-yl)acetate. A stirred solution of methyl 2-(2-acetyl-5-bromo-6-fluoro-1,2-dihydroisoquinolin-1-yl)acetate (70.6 g, 206 mmol), triethylsilane (176 g, 1517 mmol) and trifluoroacetic acid (121 mL, 1568 mmol) in 1,2-dichloroethane (500 mL) was stirred at 80° C. for 3.5 h. The reaction mixture was cooled to rt and the solvent was evaporated under reduced pressure. The remaining volatile components were evaporated under high vacuo and 40° C. bath temperature. To the resulting yellow residue saturated aqueous NaHCO3 (500 mL) was added while stirring and the mixture was extracted with DCM (3×400 mL). The organic layer was washed with saturated aqueous NaHCO3 (250 mL) and brine (200 mL). The organic layer was treated with charcoal, then dried with sodium sulfate, filtered through a pad of Hyflo and the solvent was removed under reduced pressure. The crude product was crystallized from diethyl ether (200 mL) to yield the title compound as white crystals (47.6 g). UPLC-MS: MS 344.1/346.1 (M+H+); UPLC rt 0.95 min.

reactant | methyl 2-(2-acetyl-5-bromo-6-fluoro-1,2,3,4-tetrahydroisoquinolin-1-yl)acetate | C(C)(=O)N1C(C2=CC=C(C(=C2CC1)Br)F)CC(=O)OC | C14H15BrFNO3
reactant | methyl 2-(2-acetyl-5-bromo-6-fluoro-1,2-dihydroisoquinolin-1-yl)acetate | 206 mmol, 70.6 g | C(C)(=O)N1C(C2=CC=C(C(=C2C=C1)Br)F)CC(=O)OC | C14H13BrFNO3
reactant | triethylsilane | 1517 mmol, 176 g | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 1568 mmol, 121 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | 1,2-dichloroethane | 500 mL | ClCCCl | C2H4Cl2
product | 9-bromo-10-fluoro-3,4,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione | 47.6 g | BrC1=C2CCN3C(C2=CC=C1F)=CC(NCC3=O)=O | C13H10BrFN2O2
